US03946111
Ethyl 5,5-dimethyl-3-oxo-tetrahydrothiophene-2-carboxylate was reacted with 5-n-pentyl resorcinol following a procedure similar to that of Example 3-C to produce 1,2-dihydro-2,2-dimethyl-9-hydroxy-7-n-pentyl-4-oxo-4H-thieno-[2,3-c][1] benzopyran in a 72.5% yield, m.p. 203°-206°C.

reactant | Ethyl 5,5-dimethyl-3-oxo-tetrahydrothiophene-2-carboxylate | CC1(CC(C(S1)C(=O)OCC)=O)C | C9H14O3S
reactant | 5-n-pentyl resorcinol | C(CCCC)C=1C=C(C=C(O)C1)O | C11H16O2
product | 1,2-dihydro-2,2-dimethyl-9-hydroxy-7-n-pentyl-4-oxo-4H-thieno-[2,3-c][1] benzopyran | 72.5% yield | CC1(CC2=C(C(OC3=C2C(=CC(=C3)CCCCC)O)=O)S1)C | C18H22O3S
